US05859051
Step A: Preparation of methyl 3-chloro-4-(3-bromopropylthio)-phenylacetate.
To a solution of 3-chloro-4-dimethylcarbamoyl-thiophenylacetate (85 g, 0.295 mol) in methanol (250 mL) was added 25% NaOMe in methanol (74 mL, 0.34 mol). The reaction was heated to reflux for 2 h. TLC analysis shows residual starting carbamate. Additional NaOMe/MeOH (10 mL) was added and the mixture stirred an additional 30 min at reflux. After cooling to ambient temperature, the thiolate solution was added dropwise to a solution of 1,3-dibromopropane (120 mL, 1.18 mol) in methanol (250 mL). The resulting solution was refluxed for 3 h then cooled to ambient temperature. After standing overnight, the reaction was quenched by pouring into ice water (2 L). After adjusting to pH 1 with conc. HCl (ca. 10 mL), the aqueous was extracted with EtOAc (2 L then 2×1 L). The combined organics were washed with water (2×1 L), brine (1 L), dried over anhyd. MgSO4, filtered, and concentrated. The residue was dissolved in EtOAc/ hexane (1/9) and eluted through a plug of silica gel (70-230 mesh, ca. 2 L, packed in EtOAc/hexane, 1/9). The fractions containing product were combined and evaporated to give title compound (48 g, 48% yield) as an off-white solid.

reactant | 3-chloro-4-dimethylcarbamoyl-thiophenylacetate | 0.295 mol, 85 g | ClC1=C(SC=C1C(N(C)C)=O)CC(=O)[O-]
reactant | NaOMe | C[O-].[Na+]
reactant | carbamate | C(N)([O-])=O
reactant | NaOMe MeOH | 10 mL | C[O-].[Na+].CO
reactant | 1,3-dibromopropane | 1.18 mol, 120 mL | BrCCCBr | C3H6Br2
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 0.34 mol, 74 mL | CO | CH4O
product | methyl 3-chloro-4-(3-bromopropylthio)-phenylacetate | 48 g, 48% yield | ClC=1C=C(C=CC1SCCCBr)CC(=O)OC | C12H14BrClO2S
